US06387911B1
2-Cyano-5-methoxybenzyl azide
A solution of 2-cyano-5-methoxybenzyl alcohol (1.8 g, 11 mmol) in THF (50 mL) was cooled to 0° C. and then treated sequentially with diphenylphosphoryl azide (2.8 mL, 13 mmol) and DBU 1.9 mL, 13 mmol), the former added in one portion and the latter dropwise. The reaction mixture was allowed to warm gradually to room temperature and to then stir there overnight. The solvent was removed and the residue partitioned between ethyl acetate and water. The organic phase was washed with dilute citric acid, then brine and dried (Na2SO4). The solvent was removed in vacuo and the residue purified by column chromatography eluting with 4:1:1 hexane/chloroform/ethyl acetate to give the product as a yellow oil: 1H NMR (CDCl3) δ7.62 (d, J=8.6 Hz, 1H), 7.02 (d, J=2.6 Hz, 1H), 6.92 (dd, J=2.6, 8.6 Hz, 1H), 4.59 (s, 2H), 3.89 (s, 3H).

reactant | 2-cyano-5-methoxybenzyl alcohol | 11 mmol, 1.8 g | C(#N)C1=C(CO)C=C(C=C1)OC | C9H9NO2
reactant | diphenylphosphoryl azide | 13 mmol, 2.8 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 13 mmol, 1.9 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Cyano-5-methoxybenzyl azide | C(#N)C1=C(CN=[N+]=[N-])C=C(C=C1)OC | C9H8N4O
